US05091408
20 mol of concentrated hydrochloric acid is added at 0°-5° C. to a suspension of 16.7 g of 2-methyl-3-trifluoromethylaniline (0.095 mol) in 50 ml of water and the mixture is then briefly warmed to 60°-80° C. until a clear solution has formed. The solution is cooled very rapidly to 0°-5° C. with vigorous stirring, 22.4 ml (0.286 mol) of acrylonitrile are added dropwise to the fine suspension at 0°-5° C. and a solution of 6.75 g of sodium nitrite in 10 ml of water is then rapidly added, and the mixture is kept at 5° C. for a further 5 minutes and stirred at 20° C. for 1 hour. After cooling, 0.8 g of copper(II) oxide powder is added to the reaction mixture at 0°-10° C. in portions, a vigorous evolution of nitrogen gas occurring. After completion of the evolution of gas, the mixture is stirred for a further 2 hours at 0°-10° C., then for 15 hours at room temperature, dichloromethane is added, and the mixture is washed with water, dried over sodium sulphate and concentrated in vacuo. 21.2 g (90% of theory) of 2-chloro-3-(2-methyl-3-trifluoromethylphenyl)-propionitrile are obtained as a brown oil.

reactant | hydrochloric acid | 20 mol | Cl | ClH
reactant | 2-methyl-3-trifluoromethylaniline | 0.095 mol, 16.7 g | CC1=C(N)C=CC=C1C(F)(F)F | C8H8F3N
reactant | acrylonitrile | 0.286 mol, 22.4 ml | C(C=C)#N | C3H3N
reactant | sodium nitrite | 6.75 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 10 ml | O | H2O
catalyst | copper(II) oxide | 0.8 g | [Cu]=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloro-3-(2-methyl-3-trifluoromethylphenyl)-propionitrile | 21.2 g, 90% | ClC(C#N)CC1=C(C(=CC=C1)C(F)(F)F)C | C11H9ClF3N
